US06391991B1
To a solution of 1-indanone (120 g, 0.908 mole) in acetone (180 g) inside of 500 mL round-bottom flask was added 9 mL of ethanolic potassium hydroxide (3 g, 0.054 mole) solution. The solution was heated under reflux for 7.5 hours and then acidified with acetic acid. Volatile components were removed by a rotary evaporator. To the residue diethyl ether (200 mL) and water (100 mL) were added. The aqueous layer was extracted with diethyl ether (4*200 mL). All etheral layers were combined, washed with water (50 mL), dried over anhydrous magnesium sulfate and concentrated to yield 152 g of crude product. Fractional distillation (80 to 120° C./0.3 mmHg) and recrystallization from methanol yielded 29 g of 2-isopropylidene-1-indanone. H-NMR (CDCl3) δ 1.99 (s, 3 H), 2.43 (s, 3 H), 3.62 (s, 2 H), 7.36 (br t, J=7.6 Hz, 1 H), 7.45 (br d, J=7.6 Hz, 1 H), 7.53 (td, J=7.6, 1.2 Hz, 1H), 7.80 (br d, J=7.6 Hz, 1H).

reactant | 1-indanone | 0.908 mole, 120 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | potassium hydroxide | 0.054 mole, 9 mL, 3 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetone | 180 g | CC(=O)C | C3H6O
product | 2-isopropylidene-1-indanone | 29 g | C(C)(C)=C1C(C2=CC=CC=C2C1)=O | C12H12O
